US04220654
2-Phthalimidomethylthiophene (2.43 g., 10 mole) and propionic anhydride (1.55 g., 12 moles) are heated together on a steam bath. Then 85% phosphoric acid (0.1 ml.) is added and the mixture is heated for 3 hours on the steam bath. The mixture is cooled in ice and water (5 ml.) is added to precipitate the product. The solid is filtered, dissolved in methylene chloride, washed with water, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 2-phthalimidomethyl-5-propionylthiophene as a light tan solid (2.5 g.), m.p. 104°-106° C.

reactant | 2-Phthalimidomethylthiophene | 10 mole, 2.43 g | C1(C=2C(C(N1CC=1SC=CC1)=O)=CC=CC2)=O | C13H9NO2S
reactant | propionic anhydride | 12 moles, 1.55 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | phosphoric acid | 0.1 ml | P(O)(O)(O)=O | H3O4P
solvent | water | 5 ml | O | H2O
product | 2-phthalimidomethyl-5-propionylthiophene | C1(C=2C(C(N1CC=1SC(=CC1)C(CC)=O)=O)=CC=CC2)=O | C16H13NO3S
